US06825189B1
1-(6-Bromo-5-ethoxy-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine
N-Bromosuccinimide (2.7 g, 15.2 mmol) was added to 1-(5-Ethoxy-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine (4.5 g, 14.0 mmol) at room temperature. The mixture was stirred for 2 min. The mixture was washed with saturated sodium sulfite (100 ml) was. Chromatography on silica gel with a mixture of petroleum:ethyl acetate (1:1) gave the title compound as an oil. Yield 3.3 g, 58%.

reactant | N-Bromosuccinimide | 15.2 mmol, 2.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-(5-Ethoxy-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine | 14.0 mmol, 4.5 g | C(C)OC=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C17H27N3O3
product | 1-(6-Bromo-5-ethoxy-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine | BrC1=C(C=C(C=N1)N1CCN(CCC1)C(=O)OC(C)(C)C)OCC | C17H26BrN3O3
